US07935702B2
1. 2-Methoxy-3-trifluoromethyl-pyridine
Heat a mixture of 2-chloro-3-trifluoromethyl-pyridine (1.8 g, 10 mmol) and sodium methoxide (4M, 5 mL, 20 mmol) in MeOH (20 mL) at reflux for 18 hours. Cool the mixture and remove the volatiles by rotary evaporation. Dissolve the residue in EtOAc (50 mL) and wash with water (50 mL), saturated NaHCO3(aq) (50 mL) and brine (50 mL). Dry the organic extract over MgSO4 and remove the solvent under reduced pressure to yield the title compound.

reactant | 2-chloro-3-trifluoromethyl-pyridine | 10 mmol, 1.8 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | sodium methoxide | 20 mmol, 4M, 5 mL | C[O-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 2-Methoxy-3-trifluoromethyl-pyridine | COC1=NC=CC=C1C(F)(F)F | C7H6F3NO
